US04048160
Benzhydryl 7-(2-thienylacetamido)-7-methoxy-3-bromomethyl-3-cephem-4-carboxylate.
In accordance with the procedures described by Example 1, benzhydryl 7-(2-thienylacetamido)-3-methylenecepham-4-carboxylate was reacted with 8 equivalents of lithium methoxide in tetrahydrofuran in the presence of 8 equivalents of bromine at -80° C. to provide the title product:

reactant | benzhydryl 7-(2-thienylacetamido)-3-methylenecepham-4-carboxylate | S1C(=CC=C1)CC(=O)NC1[C@@H]2N(C(C(CS2)=C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C27H24N2O4S2
reactant | lithium methoxide | 8 equivalents | C[O-].[Li+]
reactant | bromine | 8 equivalents | BrBr | Br2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | Benzhydryl 7-(2-thienylacetamido)-7-methoxy-3-bromomethyl-3-cephem-4-carboxylate | S1C(=CC=C1)CC(=O)NC1([C@@H]2N(C(=C(CS2)CBr)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)OC | C28H25BrN2O5S2
